US06175024B1
The order of functionalization and esterification is not critical. For example, rather than performing an ozonolysis of the starting material, for example, 10-undecylenic acid, as described above, the starting material first may be esterified with ethanol or other alcohol to form an ester, for example, ethyl 10-undecylenate. Next, the ester can undergo functionalization by first ozonating the ester and then reducing the ozonide using, for example, sodium borohydride to form a hydroxylated ester, for example, ethyl 10-hydroxydecanoate. The hydroxylated ester finally is converted to the desired functionalized ester using, for example, PBr3 to form ethyl 10-bromodecanoate.

reactant | ethyl 10-undecylenate | CCOC(=O)CCCCCCCCC=C | C13H24O2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethyl 10-hydroxydecanoate | OCCCCCCCCCC(=O)OCC | C12H24O3
reactant | PBr3 | P(Br)(Br)Br | Br3P
product | ethyl 10-bromodecanoate | BrCCCCCCCCCC(=O)OCC | C12H23BrO2
